US07838521B2
4. 1-[4((4aR,10aR)-6-Ethoxy-7-methoxy-1,4,4a,10a-tetrahydro-2H-3oxa-10-aza-phenanthren-9-yl)-phenyl]-1-morpholin-4-yl-methanone
A mixture of 1 mmol of 4-((4aR,10aR)-6-Ethoxy-7-methoxy-1,4,4a,10a-tetrahydro-2H-3-oxa-10-aza-phenanthren-9-yl)-benzoic acid, 5 mmol of triethyl amine and 1.1 mmol of O-(Benzotriazol-1-yl)-N,N,N′,N′-tetramethyluroniumhexafluoro-phosphate (HBTU) in 20 ml of dichloromethane is stirred for 30 min at RT. After addition of 1.1 mmol of morpholine the suspension is stirred for 60 min at RT. The mixture is concentrated under reduced pressure and the solid residue is purified by column chromatography on SiO2 (n-hexane/ethyl acetate/triethylamine 4/5/1 vol/vol/vol), the main product fraction is separated and concentrated yielding the title compound as grayish solid foam. M.p. 116-120° C. (unsharp, enamel-like shrinking starting at about 61° C.)

reactant | 4-((4aR,10aR)-6-Ethoxy-7-methoxy-1,4,4a,10a-tetrahydro-2H-3-oxa-10-aza-phenanthren-9-yl)-benzoic acid | 1 mmol | C(C)OC=1C=C2[C@H]3COCC[C@H]3N=C(C2=CC1OC)C1=CC=C(C(=O)O)C=C1 | C22H23NO5
reactant | triethyl amine | 5 mmol | C(C)N(CC)CC | C6H15N
reactant | O-(Benzotriazol-1-yl)-N,N,N′,N′-tetramethyluroniumhexafluoro-phosphate | 1.1 mmol | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
reactant | morpholine | 1.1 mmol | N1CCOCC1 | C4H9NO
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 1-[4((4aR,10aR)-6-Ethoxy-7-methoxy-1,4,4a,10a-tetrahydro-2H-3oxa-10-aza-phenanthren-9-yl)-phenyl]-1-morpholin-4-yl-methanone | C(C)OC=1C=C2[C@H]3COCC[C@H]3N=C(C2=CC1OC)C1=CC=C(C=C1)C(=O)N1CCOCC1 | C26H30N2O5
